* Simple imported SPICE deck for CircuitCI import-spice coverage.
.include models/imported_switch.model
V1 in 0 DC 3.3
R1 in out
+ 10k
L1 in out 2.2u
C1 out 0 100n
D1 out 0 IMPORTED_DIODE
.tran 1u 20u
.end
